US04863920
2.31 g of 8-fluoro-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one was stirred at 95° for 1.5 hours with 8.88 g (35 mmol) of iodine in 25 ml of N,N-dimethylformamide. The reaction mixture was then poured into 300 ml of water, decolorized with sodium thiosulphate solution and extracted four times with methylene chloride. The organic extracts were washed three times with water, dried over magnesium sulphate and evaporated. After recrystallization of the residue from ethyl acetate there was obtained 8-fluoro-4,5-dihydro-3-iodo-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one of melting point 187°-188°.

reactant | 8-fluoro-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 2.31 g | FC=1C=CC2=C(C(N(CC=3N2C=NC3)C)=O)C1 | C12H10FN3O
reactant | iodine | 35 mmol, 8.88 g | II | I2
reactant | water | 300 ml | O | H2O
reactant | sodium thiosulphate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 8-fluoro-4,5-dihydro-3-iodo-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | FC=1C=CC2=C(C(N(CC=3N2C=NC3I)C)=O)C1 | C12H9FIN3O
